US08039463B2
A solution of 4-(3-cyano-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (590 mg, 1.87 mmol) in 1,4-dioxane.HCl (3 mL) was stirred at 0° C. for 1 hour. The reaction mixture was then concentrated under reduced pressure and the resulting residue was washed with ether and dried to afford 350 mg (75%) of (3-cyano-phenyl)-piperazin-1-yl-methanone.hydrochloride.

reactant | 4-(3-cyano-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.87 mmol, 590 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC=C1)C#N)=O | C17H21N3O3
reactant | HCl | 3 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (3-cyano-phenyl)-piperazin-1-yl-methanone.hydrochloride | 350 mg, 75% | Cl.C(#N)C=1C=C(C=CC1)C(=O)N1CCNCC1 | InChI=1S/C12H13N3O.ClH/c13-9-10-2-1-3-11(8-10)12(16)15-6-4-14-5-7-15;/h1-3,8,14H,4-7H2;1H
